US05597826
A mixture of 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.118 g, 0.489 mmol) and triethylamine (0.13 mL, 0.98 mmol) in acetonitrile (10 mL) was chilled to 0° C. and 4-triisopropylsilyloxybenzoyl chloride (0.16 g, 0.51 mmol) dissolved in methylene chloride was added all at once. The mixture was gently refluxed overnight; then 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.038 g, 0.16 mmol), 4-triisopropylsilyloxybenzoyl chloride (0.5 g, 1.6 mmol), and triethylamine (0.13 mL, 0.93 mmol) were added. The reaction was refluxed for an additional 24 hours, cooled and the solvent was removed at reduced pressure. The residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate and stirred vigorously for 5 hours. The phases were separated and the organic layer was washed with brine, dried over calcium sulfate and concentrated to a tan foam which was purified by flash chromatography on silica gel (1×3.5 inches). Elution with 25% ethyl acetate/hexane removed unweighed recovered acid chloride. Continued elution with an ethyl acetate/hexane gradient of from 1:3 to 3:1 followed by 100% ethyl acetate gave 0.238 g of 7-(4-triisopropylsilyloxybenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene as a viscous tan oil.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.489 mmol, 0.118 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | triethylamine | 0.98 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 4-triisopropylsilyloxybenzoyl chloride | 0.51 mmol, 0.16 g | C(C)(C)[Si](OC1=CC=C(C(=O)Cl)C=C1)(C(C)C)C(C)C | C16H25ClO2Si
reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.16 mmol, 0.038 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | 4-triisopropylsilyloxybenzoyl chloride | 1.6 mmol, 0.5 g | C(C)(C)[Si](OC1=CC=C(C(=O)Cl)C=C1)(C(C)C)C(C)C | C16H25ClO2Si
reactant | triethylamine | 0.93 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(4-triisopropylsilyloxybenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.238 g | C(C)(C)[Si](OC1=CC=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)C)C=C1)(C(C)C)C(C)C | C31H43N3O2Si
